US05703187
1-Chloro-2-(tetramethylcyclopentadienyl)-1,1,2,2-tetramethyldisilane
To a solution of 4.802 g (25.7 mmol) 1,2-dichloro-1,1,2,2-tetramethyldisilane in 50 mL dimethylether was slowly added a solution of 2.285 g (12.8 mmol) sodium 1,2,3,4-tetramethylcyclopentadienide in 30 mL dimethylether. The reaction mixture was stirred several hours, then the solvent was removed, the residue was extracted with pentane and filtered. The pentane was removed under reduced pressure to give the product as a light-yellow oil. Mass spec: m/e 272 (8%). 1H NMR (C6D6) δ 2.70 (s, 1H), 1.83 (s, 6H), 1.69 (s, 6H), 0.28 (s, 6H), 0.23 (s, 6H); 13C NMR (C6D6) δ 135.8, 134.0, 54.4, 14.6, 11.4, 3.2, -2.4.

reactant | 1,2-dichloro-1,1,2,2-tetramethyldisilane | 25.7 mmol, 4.802 g | Cl[Si]([Si](C)(C)Cl)(C)C | C4H12Cl2Si2
reactant | sodium 1,2,3,4-tetramethylcyclopentadienide | 12.8 mmol, 2.285 g | C[C-]1C(=C(C(=C1)C)C)C.[Na+]
solvent | dimethylether | 50 mL | COC | C2H6O
solvent | dimethylether | 30 mL | COC | C2H6O
product | 1-Chloro-2-(tetramethylcyclopentadienyl)-1,1,2,2-tetramethyldisilane | Cl[Si]([Si](C)(C)C1C(=C(C(=C1C)C)C)C)(C)C | C13H25ClSi2
